US05446060
Preparation of 4-(3-methylpiperidino)-1-(2-thienyl)butanone hydrochloride (CRL 41686).
18.85 g (0.10 mol) of 4-chloro-l-(2-thienyl)butanone are run, over a periodof 30 min, into a solution, maintained at 100° C., of 21.8 g (0.22 mol) of 3-methylpiperidine in 35 ml of toluene, and the mixture is heated to reflux for 2 hours. The reaction medium is diluted with ethyl ether andthe mixture is washed with water. The organic phase is extracted with dilute hydrochloric acid solution which, after alkalinisation with sodium hydroxide, is in turn extracted with ethyl ether. The organic phase is dried over dry sodium sulphate and treated with a solution of hydrogen chloride in isopropanol.

reactant | 4-chloro-l-(2-thienyl)butanone | 0.10 mol, 18.85 g | ClCCC(CC=1SC=CC1)=O | C8H9ClOS
reactant | 3-methylpiperidine | 0.22 mol, 21.8 g | CC1CNCCC1 | C6H13N
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl ether | C(C)OCC | C4H10O
product | 4-(3-methylpiperidino)-1-(2-thienyl)butanone hydrochloride | Cl.CC1CN(CCC1)CCC(CC=1SC=CC1)=O | InChI=1S/C14H21NOS.ClH/c1-12-4-2-7-15(11-12)8-6-13(16)10-14-5-3-9-17-14;/h3,5,9,12H,2,4,6-8,10-11H2,1H3;1H
